US07687627B2
(S)-N-{3-[4-(4-methoxymethyl-4-hydroxy-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.0 mmol) with sodium ethoxide (1.6 mmol) in ethanol (10 ml) at a temperature 60° C. for 6 hours and by purifying the compound by silica gel column chromatography in 50% yield.

reactant | (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.0 mmol | O1CC12CCN(CC2)C2=CC=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O | C18H23N3O4
reactant | sodium ethoxide | 1.6 mmol | [O-]CC.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (S)-N-{3-[4-(4-methoxymethyl-4-hydroxy-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 50% yield | COCC1(CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)O | C19H27N3O5
